US09212187B2
7-{[N-(1-Benzyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethyl)-N-methylamino]methyl}-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
7-{[N-(1-Benzyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethyl)amino]methyl}-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (247 mg) was dissolved in DMF(2 ml), and was cooled to 0° C. in ice water bath. Sodium hydride (60% in oil, 13.56 mg) was added thereto at the same temperature, and the mixture was stirred at 0° C. for 0.5 hours. Methyl iodide (73.5 mg) was added thereto, and the mixture was stirred at room temperature for 4 hours. Water was added to the reaction mixture, followed by extraction using ethyl acetate. The organic layer was dried with sodium sulfate, and was condensed under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane: methanol=10:1). The purified product was condensed to dryness under reduced pressure to give the title compound(169 mg) as a white amorphous.

reactant | 7-{[N-(1-Benzyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethyl)amino]methyl}-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 247 mg | C(C1=CC=CC=C1)N1C(CCC2=CC=C(C=C12)CNCC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)=O | C32H36N4O3
reactant | Sodium hydride | 13.56 mg | [H-].[Na+]
reactant | Methyl iodide | 73.5 mg | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 7-{[N-(1-Benzyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethyl)-N-methylamino]methyl}-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 169 mg | C(C1=CC=CC=C1)N1C(CCC2=CC=C(C=C12)CN(C)CC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)=O | C33H38N4O3
